US09216985B2
2-(((7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)methyl)-5-fluoro-3-(3-(2,2,2-trifluoroethoxy)phenyl)quinazolin-4(3H)-one
Under nitrogen, to 2-(aminomethyl)-5-fluoro-3-(3-(2,2,2-trifluoroethoxy)phenyl)quinazolin-4(3H)-one (73 mg, 0.20 mmol, 1.0 equiv) in t-BuOH (0.2 mL) at 23° C. was added 4-chloro-7H-pyrrolo[2,3-d]pyrimidine (34 mg, 0.22 mmol, 1.1 equiv) and diisopropylethylamine (70 μL, 0.40 mmol, 2.0 equiv). After stirring for 36 hr at 120° C. in a sealed tube, the reaction mixture was concentrated in vacuo and the residue was purified by preparative TLC eluting with CH2Cl2/MeOH to afford 20 mg of the title compound (21% yield).

reactant | 2-(aminomethyl)-5-fluoro-3-(3-(2,2,2-trifluoroethoxy)phenyl)quinazolin-4(3H)-one | 0.20 mmol, 73 mg, 1.0 equiv | NCC1=NC2=CC=CC(=C2C(N1C1=CC(=CC=C1)OCC(F)(F)F)=O)F | C17H13F4N3O2
reactant | 4-chloro-7H-pyrrolo[2,3-d]pyrimidine | 0.22 mmol, 34 mg, 1.1 equiv | ClC=1C2=C(N=CN1)NC=C2 | C6H4ClN3
reactant | diisopropylethylamine | 0.40 mmol, 70 μL, 2.0 equiv | C(C)(C)N(CC)C(C)C | C8H19N
solvent | t-BuOH | 0.2 mL | CC(C)(C)O | C4H10O
product | 2-(((7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)methyl)-5-fluoro-3-(3-(2,2,2-trifluoroethoxy)phenyl)quinazolin-4(3H)-one | 20 mg, 21% yield | N1=CN=C(C2=C1NC=C2)NCC2=NC1=CC=CC(=C1C(N2C2=CC(=CC=C2)OCC(F)(F)F)=O)F | C23H16F4N6O2
